US08030500B2
4-Fluoro-1-(4-fluoro-3-(4-methoxypyridin-2-yl)phenyl)-1-(pyrimidin-5-yl)-1H-isoindol-3-amine
4-Methoxy-2-(tributylstannyl)pyridine (265 mg, 0.67 mmol), 1-(3-bromo-4-fluorophenyl)-4-fluoro-1-(pyrimidin-5-yl)-1H-isoindol-3-amine (178.3 mg, 0.44 mmol) and tetrakis(triphenylphosphine)palladium(0) (138 mg, 0.11 mmol) were mixed in dry DMF (2.00 mL) and heated in a microwave reactor at 110° C. for 305 min. The resulting product mixture was filtered and purified by preparative-HPLC to give the title compound (28.2 mg, 12% yield):

reactant | 4-Methoxy-2-(tributylstannyl)pyridine | 0.67 mmol, 265 mg | COC1=CC(=NC=C1)[Sn](CCCC)(CCCC)CCCC
reactant | 1-(3-bromo-4-fluorophenyl)-4-fluoro-1-(pyrimidin-5-yl)-1H-isoindol-3-amine | 0.44 mmol, 178.3 mg | BrC=1C=C(C=CC1F)C1(N=C(C2=C(C=CC=C12)F)N)C=1C=NC=NC1 | C18H11BrF2N4
solvent | DMF | 2.00 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.11 mmol, 138 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Fluoro-1-(4-fluoro-3-(4-methoxypyridin-2-yl)phenyl)-1-(pyrimidin-5-yl)-1H-isoindol-3-amine | 28.2 mg, 12% yield | FC1=C2C(=NC(C2=CC=C1)(C=1C=NC=NC1)C1=CC(=C(C=C1)F)C1=NC=CC(=C1)OC)N | C24H17F2N5O
